US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[3-[(methylamino)carbonyl]cyclohexyl]-1-piperazinecarboxamide
The mixture of 3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]cyclohexanecarboxylic acid (30 mg, 0.069 mmol), HATU (100 mg), methylamine (1.0M in THF, 3 mL) and diisopropylethylamine (0.5 mL) in DMF (3 mL) was stirred at rt for 3 h. The reaction mixture was diluted with ethyl acetate (100 mL), washed with sat. NaHCO3 solution and water, and dried over Na2SO4. Concentration in vacuo followed by flash chromatography afforded the title product. LC-MS: 445 (M++1). 1H NMR (CD3OD) δ 1.10–1.35 (m, 4H), 1.65–1.90 (m, 4H), 2.20 (m, 1H), 2.65 (s, 3H), 3.08 (m, 4H), 3.60 (m, 5H), 5.80 (d, 1H), 6.15 (s, 1H), 7.10 (d, 2H), 7.45 (s, 1H), 7.65 (a, 1H).

reactant | 3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]cyclohexanecarboxylic acid | 0.069 mmol, 30 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CC(CCC1)C(=O)O)Cl | C21H26ClN5O3
reactant | HATU | 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine | 1.0M, 3 mL | CN | CH5N
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[3-[(methylamino)carbonyl]cyclohexyl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CC(CCC1)C(=O)NC)Cl | C22H29ClN6O2
